US04348310
A mixture of 5.8 g potassium fluoride, 60 ml acetonitrile and 12 ml fluorosulfonyl difluoroacetyl fluoride was heated at 80° C. for one hour. The resulting mixture was placed in a stainless steel autoclave and heated at 50° C. for one hour and 80° C. for o ne hour with 16 g bromine and 30 g of tetrafluoroethylene. The reaction mixture was poured into a solution of sodium bisulfite, 50 ml 1,1,2-trichloro-1,2,2-trifluoroethane was added and the mixture was distilled to give a distillate boiling up to 100° C. which contained two layers. The organic layer was separated and distilled to give FSO2CF2CF2OCF2CF2Br, b.p. 106°, confirmed by infrared, nuclear magnetic resonance and mass spectroscopy.

reactant | potassium fluoride | 5.8 g | [F-].[K+]
reactant | fluorosulfonyl difluoroacetyl fluoride | 12 ml | FS(=O)(=O)C(C(=O)F)(F)F | C2F4O3S
reactant | bromine | 16 g | BrBr | Br2
reactant | tetrafluoroethylene | 30 g | FC(=C(F)F)F | C2F4
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | 1,1,2-trichloro-1,2,2-trifluoroethane | 50 ml | ClC(C(F)(F)Cl)(F)Cl | C2Cl3F3
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | FSO2CF2CF2OCF2CF2Br | FS(=O)(=O)C(F)(F)C(F)(F)OC(F)(F)C(F)(F)Br | C4BrF9O3S
